US06432993B1
(13-2a) 5-{4-[1-Methyl-6-(pyridin-2-ylthio)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione
In a similar manner to that described in Example (2-2a), a reaction was carried out using t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(pyridin-2-ylthio)phenyl}-N-methylcarbamate (0.63 g) and 4N hydrogen chloride/dioxane (20 ml) and the reaction mixture was purified to give the title compound (0.20 g).

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(pyridin-2-ylthio)phenyl}-N-methylcarbamate | 0.63 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)SC2=NC=CC=C2)N(C(OC(C)(C)C)=O)C)C=C1 | C29H30N4O6S2
solvent | hydrogen chloride dioxane | 4N, 20 ml | Cl.O1CCOCC1
product | 5-{4-[1-Methyl-6-(pyridin-2-ylthio)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | 0.20 g | CN1C(=NC2=C1C=C(C=C2)SC2=NC=CC=C2)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C24H20N4O3S2
